US08975400B2
5-formyl-2-(pyrimidin-5-yloxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and pyrimidin-5-ol.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | pyrimidin-5-ol | N1=CN=CC(=C1)O | C4H4N2O
product | 5-formyl-2-(pyrimidin-5-yloxy)benzonitrile | C(=O)C=1C=CC(=C(C#N)C1)OC=1C=NC=NC1 | C12H7N3O2
